US04363909
By following the procedure of Example 2, but using (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (16.3 g) and 2-aminopyrazine (8.5 g) as the starting materials, (S)-3-(pyrazin-2-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (7.6 g) is obtained in the form of white crystals, m.p.=140° C.

reactant | (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 16.3 g | [I-].CSC=1SC[C@H]2[N+]1CC=1C=CC=CC1C2
reactant | 2-aminopyrazine | 8.5 g | NC1=NC=CN=C1 | C4H5N3
product | (S)-3-(pyrazin-2-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 7.6 g | N1=C(C=NC=C1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C15H14N4S
